US05162315
Preparation of 1-(1-oxododecyl)-4-(2-hydroxyethyl)piperazine
5.2 g of 1-(2-hydroxyethyl)piperazine and 8.8 g of dodecanoyl chloride was reacted following the procedure under Example 3. This provided 8.7 g of product, m.p. 38°-40° C.

reactant | 1-(2-hydroxyethyl)piperazine | 5.2 g | OCCN1CCNCC1 | C6H14N2O
reactant | dodecanoyl chloride | 8.8 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | 1-(1-oxododecyl)-4-(2-hydroxyethyl)piperazine | O=C(CCCCCCCCCCC)N1CCN(CC1)CCO | C18H36N2O2
